US08003796B2
Preparation of cis-isopropyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)cyclohexanecarboxylate
Example 65 was prepared according to procedures described in Example 66 substituting cis-ethyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)cyclohexanecarboxylate for trans-ethyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)cyclohexanecarboxylate. 1H NMR (400 MHz, CDCl3) δ 8.03 (d, J=8.5 Hz, 2H), 7.59 (d, J=8.5 Hz, 2H), 7.20 (d, J=7.5 Hz, 1H), 6.05 (d, J=7.5 Hz, 1H), 5.96 (s, 1H), 5.00 (sept, J=6.2 Hz, 1H), 4.44-4.48 (m, 1H), 3.08 (s, 3H), 2.36-2.41 (m, 1H), 1.99-2.08 (m, 2H), 1.83-1.95 (m, 2H), 1.63-1.79 (m, 4H), 1.21 (d, J=6.2 Hz, 6H). MS (ESI) 434 (M+H).

reactant | cis-ethyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)cyclohexanecarboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)O[C@H]1CC[C@H](CC1)C(=O)OCC)=O | C21H25NO6S
reactant | trans-ethyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)cyclohexanecarboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)O[C@@H]1CC[C@H](CC1)C(=O)OCC)=O | C21H25NO6S
product | cis-isopropyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)cyclohexanecarboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)O[C@H]1CC[C@H](CC1)C(=O)OC(C)C)=O | C22H27NO6S
